data/oMe_Silver.jsonl
{"reaction_id": "NR-135_1-c1nccs1_2-SC_3-C#N_4-C(C)(C)C","name": "Luche Reduction","level": "medium","reactants_smiles": ["C(c1nccs1)(SC)=C(C#N)C(=O)(C(C)(C)C)","[Na+].[BH4-]","Cl[Ce](Cl)Cl","CO"],"products_smiles": ["C(c1nccs1)(SC)=C(C#N)C(O)(C(C)(C)C)"],"conditions": "NaBH4, CeCl3, MeOH","mechanism": [{"step": 1,"type": "coordination","subtype": "lewis_acid_base_coordination","intermediate_smiles": "C(c1nccs1)(SC)=C(C#N)C(=[O+][Ce-](Cl)(Cl)Cl)(C(C)(C)C)","rationale": "CeCl3, a strong Lewis acid, coordinates to the carbonyl oxygen, withdrawing electron density and increasing the partial positive charge on the carbonyl carbon, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1nccs1)(SC)=C(C#N)C(O[Ce-](Cl)(Cl)Cl)(C(C)(C)C)","rationale": "NaBH4 delivers hydride to the activated carbonyl carbon; Ce coordination reduces conjugation with the alkene, favoring 1,2-addition over 1,4-addition under these mild conditions."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1nccs1)(SC)=C(C#N)C(O)(C(C)(C)C)","rationale": "The alkoxide–cerium complex is protonated by methanol, a protic solvent, to yield the neutral alcohol and regenerate the Lewis acid catalyst."}],"description": "CeCl3 coordinates to the carbonyl oxygen, enhancing electrophilicity and directing NaBH4 reduction selectively to the carbonyl over the conjugated alkene. Hydride addition yields an alkoxide–cerium complex, which is then protonated in methanol to give the allylic alcohol."}
{"reaction_id": "NR-336_1-C(C)(C)C_2-CC_3-C(F)(F)F","level": "medium","name": "Robinson-Gabriel Synthesis","reactants_smiles": ["C(=O)(NC([H])(CC)C(=O)C(F)(F)F)C(C)(C)C"],"products_smiles": ["C(C)(C)Cc1nc(CC)c(C(F)(F)F)o1"],"conditions": "Acid (e.g., H-OTs, H2SO4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(NC([H])(CC)C(=[OH+])C(F)(F)F)C(C)(C)C","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the adjacent carbon, making it more susceptible to nucleophilic attack by the nearby amide nitrogen."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C)(C)CC1=[NH+]C(CC)C(O)(C(F)(F)F)O1","step_weight": 0,"rationale": "The amide nitrogen attacks the activated carbonyl carbon intramolecularly, favored by proximity and ring closure, forming a five-membered oxazolinium intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C)(C)CC1=NC(CC)C([OH2+])(C(F)(F)F)O1","step_weight": 0,"rationale": "Proton transfer to the hydroxyl group converts it into a better leaving group (water), facilitated by the acidic medium."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(C)Cc1nc(CC)c(C(F)(F)F)o1","step_weight": 0,"rationale": "Loss of water generates a conjugated aromatic oxazole ring, driven by the stability of the aromatic system and the good leaving ability of water under acidic conditions."}],"description": "Under acidic conditions, the amide carbonyl is activated toward intramolecular cyclization. Protonation increases electrophilicity, enabling nucleophilic attack by the amide nitrogen to form an oxazole ring. Subsequent proton transfers and water elimination yield the aromatic heterocycle."}
